US04176185
Pyrano[2,3-f]quinolin-4-one
Polyphosphoric acid (26 ml) was heated at 90°-95° C. and stirred while 3-(5-quinolinoxy)-propionic acid (2.60 g, 0.0120 mole) was added in small portions. After heating for 2 hours the mixture was poured into 200 ml ice water, basified to pH 10 with concentrated ammonium hydroxide and extracted with 3×200 ml ethyl acetate. The combined organic plasma were dried over magnesium sulfate, filtered, and evaporated in vacuo to a solid, which were recrystallized from toluene, m.p. 146°-147° C.

reactant | 3-(5-quinolinoxy)-propionic acid | 0.0120 mole, 2.60 g | N1=CC=CC=2C(=CC=CC12)OCCC(=O)O | C12H11NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | Pyrano[2,3-f]quinolin-4-one | O1C=CC(C=2C1=C1C=CC=NC1=CC2)=O | C12H7NO2
